US05843942
To a mixture of butyl 6-[N-(2-benzyloxy-5-bromobenzyl)amino]pyridazine-3-carboxylate (CF3CO2H salt) (1.2 g) in THF (100 ml) under argon, was added potassium di-(trimethylsilyl)amide [7.0 ml of 0.67M solution in toluene] to give a yellow solution. To the solution was added allyl bromide (0.5 ml). The mixture was stirred for 2 hours, poured into water and extracted with diethyl ether. The organic solution was dried (MgSO4), evaporated and the residue purified by HPLC, eluting with dichloromethane, to give butyl 6-[N-allyl-N-(2-benzyloxy-5-bromobenzyl)amino]pyridazine-3-carboxylate (460 mg) as a gum.

reactant | butyl 6-[N-(2-benzyloxy-5-bromobenzyl)amino]pyridazine-3-carboxylate | 1.2 g | C(C1=CC=CC=C1)OC1=C(CNC2=CC=C(N=N2)C(=O)OCCCC)C=C(C=C1)Br | C23H24BrN3O3
reactant | potassium di-(trimethylsilyl)amide | 0.67M, 7.0 ml | C[Si](C)(C)[N-][Si](C)(C)C.[K+]
reactant | allyl bromide | 0.5 ml | C(C=C)Br | C3H5Br
reactant | water | O | H2O
solvent | THF | 100 ml | C1CCOC1 | C4H8O
product | butyl 6-[N-allyl-N-(2-benzyloxy-5-bromobenzyl)amino]pyridazine-3-carboxylate | 460 mg | C(C=C)N(CC1=C(C=CC(=C1)Br)OCC1=CC=CC=C1)C1=CC=C(N=N1)C(=O)OCCCC | C26H28BrN3O3
